US09193722B2
A solution of oxalylchloride (2.65 mL, 3.92 g, 30.9 mmol) in dichloromethane (50 mL) was cooled to −60° C. and DMSO (4.4 mL, 4.82 g, 4.4 mL) was added while maintaining the temperature between −50 and −60° C. A solution of 3-methyl-1-(pyrazin-2-yl)butan-1-ol (4.66 g, 28.0 mmol) in dichloromethane (10 mL) was added and the mixture was stirred for 15 min at −60° C. Triethylamine (19.45 mL, 14.17 g, 140 mmol) was added (T≈−55° C.) and the mixture was allowed to reach room temperature. Water was added and the aqueous phase was extracted with dichloromethane. The combined organic layers were dried over MgSO4 and concentrated in vacuo. Column chromatography (silica, EtOAc/Heptane 1/9) afforded 3-methyl-1-(pyrazin-2-yl)butan-1-one as a dark yellow oil (4.3 g; 94%).

reactant | oxalylchloride | 30.9 mmol, 2.65 mL, 3.92 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 4.4 mL, 4.82 g | CS(=O)C | C2H6OS
reactant | 3-methyl-1-(pyrazin-2-yl)butan-1-ol | 28.0 mmol, 4.66 g | CC(CC(O)C1=NC=CN=C1)C | C9H14N2O
reactant | Triethylamine | 140 mmol, 19.45 mL, 14.17 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 3-methyl-1-(pyrazin-2-yl)butan-1-one | CC(CC(=O)C1=NC=CN=C1)C | C9H12N2O
